US09376422B2
Step 4: Synthesis of 5-(azetidin-3-yl)-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methyl-3-[methyl(oxan-4-yl)amino]benzamide
To a stirred solution of tert-butyl 3-(3-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}-4-methyl-5-[methyl(oxan-4-yl)amino]phenyl)azetidine-1-carboxylate (29 mg, 1.29 mmol) in DCM (4 ml) was added TFA (1 ml) and the solution was stirred at room temperature for 90 min after which the solvent was evaporated and saturated aqueous NaHCO3 was added until pH7-8. The aqueous phase was extracted with a 1:1 mixture IPA:CHCl3 (2×50 ml), and the combined organic phases washed with brine (30 ml, dried with Na2SO4, filtered and evaporated. The residue was purified by preparative HPLC to afford the title compound as a white solid (15 mg, 42%). LC-MS 100%, m/z=439.3, 1H NMR (500 MHz, MeOD) δ 7.19 (d, J=1.4 Hz, 1H), 7.10 (d, J=1.5 Hz, 1H), 6.12 (s, 1H), 4.46 (s, 2H), 4.41-4.27 (m, 2H), 4.26-4.13 (m, 3H), 3.93 (d, J=11.4 Hz, 2H), 3.36 (td, J=11.3, 3.3 Hz, 2H), 3.06 (dq, J=14.6, 5.0 Hz, 1H), 2.65 (s, 3H), 2.39 (s, 3H), 2.26 (s, 3H), 2.24 (s, 3H), 1.75-1.60 (m, 4H).

reactant | tert-butyl 3-(3-{[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]carbamoyl}-4-methyl-5-[methyl(oxan-4-yl)amino]phenyl)azetidine-1-carboxylate | 1.29 mmol, 29 mg | CC1=C(C(NC(=C1)C)=O)CNC(=O)C=1C=C(C=C(C1C)N(C1CCOCC1)C)C1CN(C1)C(=O)OC(C)(C)C | C30H42N4O5
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 5-(azetidin-3-yl)-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-methyl-3-[methyl(oxan-4-yl)amino]benzamide | 15 mg, 42% | N1CC(C1)C=1C=C(C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C1)C)N(C1CCOCC1)C | C25H34N4O3
